US07511077B2
C. Synthesis of {4-[6,6-bis-(4-fluoro-phenyl)-hexanoylamino]-but-2-ynyl}-carbamic acid tert-butyl ester
To a solution of (4-Amino-but-2-ynyl)-carbamic acid tert-butyl ester (0.8 g, 4.34 mmol) in dry CH2Cl2 (40 ml) was added 6,6-bis-(4-fluorophenyl)-hexanoic acid (1.32 g, 4.4 mmol) under nitrogen. To the reaction was added EDC (1.66 g, 8.68 mmol) and DMAP (cat) and the reaction mixture stirred under nitrogen at room temperature overnight. The reaction was then concentrated under reduced pressure. The residue dissolved in ethyl acetate: water (10:1) (150 ml). The organic was washed with water (30 ml, 2×) and 10% NaOH (30 ml) and dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using CH2Cl2:CH3OH (15:1) to give the desired product in 72% yield.

reactant | (4-Amino-but-2-ynyl)-carbamic acid tert-butyl ester | 4.34 mmol, 0.8 g | C(C)(C)(C)OC(NCC#CCN)=O | C9H16N2O2
reactant | 6,6-bis-(4-fluorophenyl)-hexanoic acid | 4.4 mmol, 1.32 g | FC1=CC=C(C=C1)C(CCCCC(=O)O)C1=CC=C(C=C1)F | C18H18F2O2
reactant | EDC | 8.68 mmol, 1.66 g
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | {4-[6,6-bis-(4-fluoro-phenyl)-hexanoylamino]-but-2-ynyl}-carbamic acid tert-butyl ester | 72% yield | C(C)(C)(C)OC(NCC#CCNC(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O)=O | C27H32F2N2O3
